US04748239
(B) [2-(6-Trifluoromethyl-2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester
Catalytic reduction of 40.4 g (0.088 mol) of [2-(6-trifluoromethyl-2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester (in two portions) following the procedure of Example 28 part B gave 36.9 g of nearly colorless solid, melting point 111°-113° C. Rf 0.62 (1:1 ethyl acetate-hexane). A sample crystallized from methanol melted at 112°-114° C.

reactant | [2-(6-trifluoromethyl-2-nitrophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | 0.088 mol, 40.4 g | FC(C1=CC=CC(=C1CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC)[N+](=O)[O-])(F)F | C21H20F3NO7
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | [2-(6-Trifluoromethyl-2-aminophenyl)-1-(4-methoxyphenyl)ethyl]propanedioic acid, dimethyl ester | FC(C1=CC=CC(=C1CC(C1=CC=C(C=C1)OC)C(C(=O)OC)C(=O)OC)N)(F)F | C21H22F3NO5
